US09238644B2
(c) 2-Methyl-2-(2-((triethylsilyl)ethynyl)phenyl)propanamide (A35)
A mixture of 2-(2-bromophenyl)-2-methylpropanamide A34 (0.196 g, 0.810 mmol), CuI (0.008 g, 0.040 mmol), tri-tert-butylphosphonium tetrafluoroborate (0.012 g, 0.040 mmol), PdCl2(PPh3)2 (0.028 g, 0.040 mmol) and (triethylsilyl)acetylene (0.174 mL, 0.971 mmol) in DMF (5 mL) was bubbled with N2 for 10 minutes. Et3N (5 mL) was added and the mixture was stirred under nitrogen at 65° C. for 4 hours. The mixture was cooled and the volatiles were removed in vacuo. The dark brown residue was adsorbed onto silica and purified by column chromatography (Biotage Isolera, 24 g SiO2 cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound A35 as a brown solid (0.116 g, 48%). LCMS-D: rt 3.84 min; m/z 302 [M+H]+.

reactant | 2-(2-bromophenyl)-2-methylpropanamide | BrC1=C(C=CC=C1)C(C(=O)N)(C)C | C10H12BrNO
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.040 mmol, 0.012 g | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | (triethylsilyl)acetylene | 0.971 mmol, 0.174 mL | C(C)[Si](CC)(CC)C#C | C8H16Si
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.040 mmol, 0.008 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.040 mmol, 0.028 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Methyl-2-(2-((triethylsilyl)ethynyl)phenyl)propanamide | CC(C(=O)N)(C)C1=C(C=CC=C1)C#C[Si](CC)(CC)CC | C18H27NOSi
